US07968723B2
Copper(I)iodide (38 mg, 0.20 mmol), dichlorobis(triphenylphosphine)palladium(II) (250 mg, 0.40 mmol) and N,N-diisopropylamine (1.40 g, 14 mmol) were added to a solution of 2-iodothiazole (1.50 g, 7.0 mmol; prepared as described in J. Org. Chem. 1988, 53, 2489) and dry tetrahydrofuran (50 mL). The reaction mixture was degassed and trimethylsilylacetylene (1.40 g, 14 mmol) was added in two portions under nitrogen atmosphere. The reaction was heated to 50° C. for 12 h. The formed precipitate and separated palladium were removed by filtration through a short path of silica gel. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (silica gel Fluka 60: hexane/ethyl acetate 98:2-90:10) yielding 2-(trimethylsilylethynyl)thiazole as yellow oil.

reactant | N,N-diisopropylamine | 14 mmol, 1.40 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-iodothiazole | 7.0 mmol, 1.50 g | IC=1SC=CN1 | C3H2INS
reactant | trimethylsilylacetylene | 14 mmol, 1.40 g | C[Si](C)(C)C#C | C5H10Si
catalyst | Copper(I)iodide | 0.20 mmol, 38 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.40 mmol, 250 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-(trimethylsilylethynyl)thiazole | C[Si](C)(C)C#CC=1SC=CN1 | C8H11NSSi
